US06960607B2
Step b) (2-Fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanone.
Jones Reagent (38.5 mL) was added dropwise into a cold (10° C.) solution of (2-fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanol (12.0 g, 38.46 mmol), and acetone (200 mL). The mixture was stirred for 30 min, poured into water and the precipitated solid filtered off and dried to give a brown solid (11.6 g, 97% yield, m.p. 120-122° C.); MS m/e 311 (M+H)+.

reactant | Jones Reagent | 38.5 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | (2-fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanol | 38.46 mmol, 12.0 g | FC1=C(C=CC(=C1)OC)C(O)C1=CC2=CC=C(C=C2C=C1)OC | C19H17FO3
reactant | acetone | 200 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | (2-Fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanone | 11.6 g, 97% yield | FC1=C(C=CC(=C1)OC)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C19H15FO3
